US08106064B2
N-(3-Cyano-5-methyl-phenyl)-N-{3-[2-fluoro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yl}-acetamide (179):
Potassium carbonate (25 mg, 0.18 mmol) and lithium chloride (24 mg, 0.18 mmol) were added to a solution of N-(3-cyano-5-methyl-phenyl)-N-(5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yl)-acetamide (60 mg, 0.18 mmol) and (4-bromomethyl-6-fluoro-pyridin-2-yl)-(4-methoxy-benzyl)-amine (59 mg, 0.18 mmol) in dimethylformamide (1 mL). After 17 hours the solvent was removed and the residue was subjected to flash chromatography (eluant: 0-5% methanol/dichloromethane). The product containing fractions were combined and the solvent was removed in vacuo to yield the product (58 mg, 0.10 mmol). C31H31FN6O4 calculated 570.2, observed [M+1]+ 571.1; rt=3.82 min.

reactant | Potassium carbonate | 0.18 mmol, 25 mg | C([O-])([O-])=O.[K+].[K+]
reactant | lithium chloride | 0.18 mmol, 24 mg | [Cl-].[Li+]
reactant | N-(3-cyano-5-methyl-phenyl)-N-(5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yl)-acetamide | 0.18 mmol, 60 mg | C(#N)C=1C=C(C=C(C1)C)N(C(C)=O)C=1NC(NC(C1C(C)C)=O)=O | C17H18N4O3
reactant | (4-bromomethyl-6-fluoro-pyridin-2-yl)-(4-methoxy-benzyl)-amine | 0.18 mmol, 59 mg | BrCC1=CC(=NC(=C1)F)NCC1=CC=C(C=C1)OC | C14H14BrFN2O
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | N-(3-Cyano-5-methyl-phenyl)-N-{3-[2-fluoro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidin-4-yl}-acetamide | 0.10 mmol, 58 mg | C(#N)C=1C=C(C=C(C1)C)N(C(C)=O)C=1N(C(NC(C1C(C)C)=O)=O)CC1=CC(=NC(=C1)NCC1=CC=C(C=C1)OC)F | C31H31FN6O4
